US08232305B2
Preparation of 1-methyl-3-(2-oxo-2-octyloxyethyl)-1H-Imidazolium bromide
Methyl imidazol (18.1 g) in 20 ml diethyl ether is added drop wise to a stirred mixture of Octyl-2-bromoacetate (55.7 g) and diethyl ether (200 ml) and cooled to 0° C. in an ice bath. The mixture is stirred overnight to yield a two phase mixture. The top ether layer is decanted and the product is stirred in 100 ml of fresh diethyl ether for 10 minutes. The ether layer is again decanted. The product is washed in this manner 5 times to yield, after drying under vacuum, the product as a white waxy solid.

reactant | Methyl imidazol | 18.1 g | CC=1NC=CN1 | C4H6N2
reactant | Octyl-2-bromoacetate | 55.7 g | C(CCCCCCC)OC(CBr)=O | C10H19BrO2
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-methyl-3-(2-oxo-2-octyloxyethyl)-1H-Imidazolium bromide | [Br-].C[NH+]1CN(C=C1)CC(OCCCCCCCC)=O | InChI=1S/C14H26N2O2.BrH/c1-3-4-5-6-7-8-11-18-14(17)12-16-10-9-15(2)13-16;/h9-10H,3-8,11-13H2,1-2H3;1H
